US08334287B2
b) 2-Allyloxy-6-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-pyrazine
The title compound, light yellow viscous oil, MS: m/e=352.2, 354.2 (M+H+), was prepared in accordance with the general method of example 1b from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine (CAS: [802905-83-5]) and 2-Allyloxy-6-chloro-pyrazine (CAS: [107466-49-9].

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | 2-Allyloxy-6-chloro-pyrazine | C(C=C)OC1=NC(=CN=C1)Cl | C7H7ClN2O
product | 2-Allyloxy-6-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-pyrazine | C(C=C)OC1=NC(=CN=C1)N1C(=NC(=C1)C#CC1=CC(=NC=C1)Cl)C | C18H14ClN5O
